US07601844B2
To a suspension of 6-aminopicolinic acid (33 mg, 0.24 mmol) in DMF (2 mL) was added EDC (45.9 mg, 0.24 mmol), HOBt (32.3 mg, 0.24 mmol). The mixture was stirred at rt for 0.5 h, then was added DIPEA (0.083 mL, 0.48 mmol) and (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride (90 mg, 0.239 mmol). The mixture was stirred at rt overnight. The reaction was quenched with NaHCO3 (aq) and stirred at rt for 1 h, extracted by EtOAc, washed with brine and dried over Na2SO4. After concentrating in vacuo, the residue was triturated with CH2Cl2 and filtered to give a yellow solid as 6-amino-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)picolinamide (86 mg, 0.187 mmol, 78% yield).

reactant | 6-aminopicolinic acid | 0.24 mmol, 33 mg | NC1=CC=CC(=N1)C(=O)O | C6H6N2O2
reactant | EDC | 0.24 mmol, 45.9 mg
reactant | HOBt | 0.24 mmol, 32.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.48 mmol, 0.083 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride | 0.239 mmol, 90 mg | Cl.N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-amino-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)picolinamide | 0.187 mmol, 86 mg, 78% yield | NC1=CC=CC(=N1)C(=O)N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C24H31ClN4O3
